US09062070B2
Step A: 6,7-Dihydro-5H-cyclopenta[b]pyridin-5-ol
To a solution of 6,7-dihydro-5H-cyclopenta[b]pyridine (5.0 g, 42 mmol) and MgSO4 (10 g, 84 mmol) in acetone (250 mL) was added a solution of KMnO4 (13 g, 84 mmol) in water (500 mL) at 60 degrees. The mixture was allowed to stir for 30 minutes at 60° C. IPA was slowly added to quench excess KMnO4. The reaction was filtered through a pad of Celite. The filtrate was concentrated under reduced pressure and pumped on a high vacuum pump to ensure complete removal of water. The residue was dissolved in ethanol (200 mL), and cooled with an ice bath. To this solution was slowly added NaBH4 (3.2 g, 84 mmol). When TLC showed complete reduction, water was added to quench excess NaBH4. Ethanol was removed on a rotavapor. The crude material was dissolved in EtOAc, washed with aq. NaHCO3, dried over sodium sulfate, and purified by MPLC (MeOH-DCM: 0-7%). The title compound was collected. LC-MS (IE, m/z): 136 [M+1]+.

reactant | 6,7-dihydro-5H-cyclopenta[b]pyridine | 42 mmol, 5.0 g | N1=C2C(=CC=C1)CCC2 | C8H9N
reactant | MgSO4 | 84 mmol, 10 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KMnO4 | 84 mmol, 13 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaBH4 | 84 mmol, 3.2 g | [BH4-].[Na+]
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | water | 500 mL | O | H2O
solvent | IPA | CC(C)O | C3H8O
product | 6,7-Dihydro-5H-cyclopenta[b]pyridin-5-ol | N1=C2C(=CC=C1)C(CC2)O | C8H9NO
